US06660734B1
t-Butyl N-Hydroxyglycine. Z-Benzaldoxime (5.64 g, 46.61 mmol) and t-butyl bromoacetate (7.58 mL, 10 g, 51.27 mmol) were added successively to a solution of sodium (1.07 g, 0.047 g-atom) in 2-propanol (120 mL). The suspension was stirred for 2 h and then poured into water (100 mL). Extraction with dichloromethane, followed by drying over anhydrous magnesium sulfate and concentration gave a residue which was chromatographed on silica gel. Elution with 60% ethyl acetate-hexanes gave t-butyl N-benzylideneglycine N-oxide.

reactant | t-Butyl N-Hydroxyglycine | C(C)(C)(C)N(CC(=O)O)O | C6H13NO3
reactant | Z-Benzaldoxime | 46.61 mmol, 5.64 g | C(/C1=CC=CC=C1)=N/O | C7H7NO
reactant | t-butyl bromoacetate | 51.27 mmol, 7.58 mL, 10 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium | 1.07 g | [Na] | Na
solvent | 2-propanol | 120 mL | CC(C)O | C3H8O
solvent | water | 100 mL | O | H2O
product | t-butyl N-benzylideneglycine N-oxide | C(C)(C)(C)C([N+](=CC1=CC=CC=C1)[O-])C(=O)O | C13H17NO3
